US04769386
A mixture of 1,4-dimethyl-5-formyl-2-(4-methoxybenzylthio)imidazole (1.7 g, 6 mmoles) and methyl (triphenylphosphoranylidene)acetate (4.8 g, 14 mmoles) in toluene (50 ml) was heated to reflux for 16 hours, cooled and concentrated in vacuo. The residue was triturated with ether, filtered and the filtrate was concentrated in vacuo. The residue was chromatographed on silica eluted with hexane-ethyl acetate (3:2) to give 5-[2-(carbethoxy)-ethenyl]-1,4-dimethyl-2-(4-methoxybenzylthio)imidazole (mp 165°-167° C.).

reactant | 1,4-dimethyl-5-formyl-2-(4-methoxybenzylthio)imidazole | 6 mmoles, 1.7 g | CN1C(=NC(=C1C=O)C)SCC1=CC=C(C=C1)OC | C14H16N2O2S
reactant | methyl (triphenylphosphoranylidene)acetate | 14 mmoles, 4.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[2-(carbethoxy)-ethenyl]-1,4-dimethyl-2-(4-methoxybenzylthio)imidazole | C(=O)(OCC)C=CC1=C(N=C(N1C)SCC1=CC=C(C=C1)OC)C | C18H22N2O3S
